US07423030B2
3.1. N,4-dimethoxy-N-methylbenzamide
14.7 g (151 mmol) of N,O-dimethylhydroxylamine hydrochloride are added portionwise to a solution of 25 g (147 mmol) of 4-methoxybenzoyl chloride in 450 mL of dichloromethane, stirred at 0-5° C. under nitrogen. 51 mL (370 mmol) of triethylamine are then added slowly to the mixture stirred at 0-5° C. The orange-coloured reaction medium is stirred at room temperature for 3 hours. The mixture is hydrolysed with 250 mL of water and then extracted with dichloromethane. The organic phase is washed with 100 mL of 1N HCl, 150 mL of 1N NaOH and then with water and brine. It is dried over anhydrous sodium sulfate, filtered and evaporated to dryness. 26.9 g of an orange-coloured oil are obtained, and are purified on a column of silica, eluting with dichloromethane and then with a 95/5 dichloromethane/methanol mixture. 25.4 g of a yellow oil are obtained (89% yield).

reactant | N,O-dimethylhydroxylamine hydrochloride | 151 mmol, 14.7 g | Cl.CNOC
reactant | 4-methoxybenzoyl chloride | 147 mmol, 25 g | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
reactant | triethylamine | 370 mmol, 51 mL | C(C)N(CC)CC | C6H15N
reactant | water | 250 mL | O | H2O
solvent | dichloromethane | 450 mL | ClCCl | CH2Cl2
product | N,4-dimethoxy-N-methylbenzamide | 26.9 g | CON(C(C1=CC=C(C=C1)OC)=O)C | C10H13NO3
